US05348786
Aqueous Dissolution of 2-(4-SilyloxymethylPhenoxy)-Ethyl Vinyl Ether/Maleic Anhydride Copolymer--A slurry was made with 20 g of 2-(4-silyloxymethyl-phenoxy)ethyl vinyl ether/maleic arthydride copolymer in 498 g of distilled water. To this was added 108 g of a 20% aqueous NaOH solution. The slurry was heated to 75° C. for 48 hours. The reaction was then cooled to room temperature to give a 3.37% concentrated solution of 2-(4-hydroxymethyl-phenoxy)-ethyl vinyl ether/maleic diacid at pH 12.7.

reactant | 2-(4-SilyloxymethylPhenoxy)-Ethyl Vinyl Ether Maleic Anhydride | C(=C)OCCOC1=CC=C(C=C1)CO[SiH3].C1(\C=C/C(=O)O1)=O
reactant | 2-(4-silyloxymethyl-phenoxy)ethyl vinyl ether | 20 g | C(=C)OCCOC1=CC=C(C=C1)CO[SiH3] | C11H16O3Si
reactant | NaOH | [OH-].[Na+]
solvent | water | 498 g | O | H2O
product | 2-(4-hydroxymethyl-phenoxy)-ethyl vinyl ether | C(=C)OCCOC1=CC=C(C=C1)CO | C11H14O3
